* C:\Users\core i5\Documents\LTC\Work\1506\ADA4938_test.asc
XU1 N001 N005 N003 N004 Vcc Vee +OUT -OUT Vocm ADA4938
V2 Vee 0 -5
R1 N004 0 27.5
R2 N003 N002 200
V1 Vcc 0 5
V3 N006 0 SINE(0 10 100k)
R3 N006 N002 50
R4 0 N002 61.9
R5 +OUT N001 200
R6 -OUT N005 200
R7 +OUT -OUT 1k
.tran 0.03m
.lib ADA4938.CIR
.backanno
.end
